US07019012B2
(R)-N-[(tetrahydrofuran-2-yl)methyl]-N-benzyl-N-methylamine
A solution of 24.60 g of (R)-tetrahydrofuran-2-carboxylic acid-N-benzyl-N-methylamide in 90 ml tetrahydrofuran is added dropwise to 17.00 g of lithium aluminium hydride in 150 ml of tetrahydrofuran. The reaction mixture is refluxed for two hours. For working up it is cooled to 0° C. in an ice bath, mixed with 20 ml of water and 10 ml of 15 N sodium hydroxide solution and stirred for another 20 minutes. Then it is filtered through a layer of magnesium sulfate and washed with a total of about 500 ml of tetrahydrofuran. The filtrate is evaporated down in vacuo, leaving a yellowish oil which is further reacted without any more purification. Yield: 21.10 g (92% of theory); mass spectrum (ESI+): m/z=206 [M+H]+.

reactant | (R)-tetrahydrofuran-2-carboxylic acid-N-benzyl-N-methylamide | 24.60 g | C(C1=CC=CC=C1)N(C(=O)[C@@H]1OCCC1)C | C13H17NO2
reactant | lithium aluminium hydride | 17.00 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 20 ml | O | H2O
reactant | sodium hydroxide | 15 N, 10 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 90 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | (R)-N-[(tetrahydrofuran-2-yl)methyl]-N-benzyl-N-methylamine | O1[C@H](CCC1)CN(C)CC1=CC=CC=C1 | C13H19NO
